US04256757
1-(5-formylpentyl)imidazole
Under an atmosphere of nitrogen, 8.8 ml of a 25% (W/V) solution of diisobutylaluminum hydride in toluene was added dropwise to a solution of 2.50 g of 1-(5-ethoxycarbonylpentyl)imidazole in 120 ml of toluene at -70° C., and the mixture was stirred at the same temperature for 30 minutes. To the reaction mixture was added one ml of methanol at -70° C.; and one ml of water at 0° C., then the mixture was stirred at 30° C. for one hour. The reaction mixture was filtered, the filtrate was dried over magnesium sulphate and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel using a mixture of chloroform and methanol (25:1) as eluent to give 1.15 g of the title compound having the following physical characteristics:

reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | 1-(5-ethoxycarbonylpentyl)imidazole | 2.50 g | C(C)OC(=O)CCCCCN1C=NC=C1 | C11H18N2O2
reactant | methanol | one ml | CO | CH4O
reactant | water | one ml | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 120 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(5-formylpentyl)imidazole | 1.15 g | C(=O)CCCCCN1C=NC=C1 | C9H14N2O
